US05302593
c) Preparation of 7-morpholinylheptylamine
Hydrazine (aqueous solution at 35% by wt.) (0.15 ml; 1.6 mmoles) was added to 7-morpholinylheptylphthalimide (264 mg; 0.8 mmoles) in methanol (5 ml) and the resulting solution was refluxed. Reaction times and process as per Example 1.

reactant | Hydrazine | 1.6 mmoles, 0.15 ml | NN | H4N2
reactant | 7-morpholinylheptylphthalimide | 0.8 mmoles, 264 mg | N1(CCOCC1)CCCCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C19H26N2O3
solvent | methanol | 5 ml | CO | CH4O
product | 7-morpholinylheptylamine | N1(CCOCC1)CCCCCCCN | C11H24N2O
